US07935815B2
Synthesis of tert-butyl N′-[2-(2-chloroethoxy)-2-(4-fluorophenyl)acetyl]-hydrazinecarboxylate
Bis(2-oxo-3-oxazolidinyl)phosphinic acid chloride (4.38 g) was added to a solution of (2-chloroethoxy)-(4-fluorophenyl)acetic acid (2 g), tert-butyl carbazate (2.27 g) and triethylamine (3.58 mL) in tetrahydrofuran (20 mL), and the reaction solution was stirred at room temperature for 16 hours. Saturated aqueous ammonium chloride and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex, elution solvent: heptane/ethyl acetate) to obtain the title compound (2.8 g). The property values of the compound are as follows.

reactant | Bis(2-oxo-3-oxazolidinyl)phosphinic acid chloride | 4.38 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | (2-chloroethoxy)-(4-fluorophenyl)acetic acid | 2 g | ClCCOC(C(=O)O)C1=CC=C(C=C1)F | C10H10ClFO3
reactant | tert-butyl carbazate | 2.27 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 3.58 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl N′-[2-(2-chloroethoxy)-2-(4-fluorophenyl)acetyl]-hydrazinecarboxylate | 2.8 g | ClCCOC(C(=O)NNC(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C15H20ClFN2O4
